US08754085B2
Enantiomer 2 of Ethyl 7-(2-methyl-6,7-diphenyl-3,4-dihydro-1,8-naphthyridin-1(2H)-yl)heptanoate (37 mg, 0.081 mmol) was dissolved in THF/water (1 ml/2:1) and lithium hydroxide (9.70 mg, 0.405 mmol) was added. The mixture was stirred at room temperature for 4 days and then diluted with water (25 ml). The pH was adjusted to pH 5-6 using 1M HCl. The aqueous portion was extracted with EtOAc (2×20 ml) and the combined organics extracts were washed with brine, dried over MgSO4, filtered and evaporated to afford Enantiomer 1 of 7-(2-methyl-6,7-diphenyl-3,4-dihydro-1,8-naphthyridin-1(2H)-yl)heptanoic acid;

reactant | Ethyl 7-(2-methyl-6,7-diphenyl-3,4-dihydro-1,8-naphthyridin-1(2H)-yl)heptanoate | 0.081 mmol, 37 mg | CC1N(C2=NC(=C(C=C2CC1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCC(=O)OCC | C30H36N2O2
reactant | lithium hydroxide | 0.405 mmol, 9.70 mg | [OH-].[Li+]
reactant | HCl | 1M | Cl | ClH
solvent | THF water | 1 ml | C1CCOC1.O
solvent | water | 25 ml | O | H2O
product | 7-(2-methyl-6,7-diphenyl-3,4-dihydro-1,8-naphthyridin-1(2H)-yl)heptanoic acid | CC1N(C2=NC(=C(C=C2CC1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCC(=O)O | C28H32N2O2
